US07767675B2
Step 2. 1-{4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]phenyl}cyclopropanecarboxylic acid
A mixture of 1-[4-(2-aminopyrimidin-5-yl)phenyl]cyclopropanecarboxylic acid (0.22 g, 0.86 mmol) and chloro(1-quinolin-6-ylcyclopropyl)acetaldehyde (0.21 g, 0.86 mmol) in ethanol (8 mL) was stirred at 100° C. overnight. The reaction mixture was purified by RP-HPLC (pH 10) to afford the desired product (0.12 g, 31%). LCMS: (M+H)=447.1.

reactant | 1-[4-(2-aminopyrimidin-5-yl)phenyl]cyclopropanecarboxylic acid | 0.86 mmol, 0.22 g | NC1=NC=C(C=N1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C14H13N3O2
reactant | chloro(1-quinolin-6-ylcyclopropyl)acetaldehyde | 0.86 mmol, 0.21 g | ClC(C=O)C1(CC1)C=1C=C2C=CC=NC2=CC1 | C14H12ClNO
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 1-{4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]phenyl}cyclopropanecarboxylic acid | 0.12 g, 31% | N1=CC=CC2=CC(=CC=C12)C1(CC1)C1=CN=C2N1C=C(C=N2)C2=CC=C(C=C2)C2(CC2)C(=O)O | C28H22N4O2
